US07846960B2
[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol
To a 0° C. solution of 2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazole-3-carboxylic acid methyl ester (2.2 g, 6.8 mmol) in THF (30 mL) is added DIBAL-H (33.7 mL, 1M in toluene). The reaction mixture is stirred at ambient temperature overnight. The reaction is quenched by the addition of methanol and is concentrated under reduced pressure. The residue is partitioned between 5N NaOH and EtOAc. The layers are separated and the organic layer is filtered through a pad of diatomaceous earth. The filtrate is concentrated under reduced pressure to give the title compound as a light yellow solid, (1.6 g, 80%). 1H NMR (400 MHz, CDCl3): δ 7.67 (s, 1H), 7.44 (d, 2H), 7.34 (dd, 1H), 4.45 (s, 2H), 3.00 (m, 1H), 1.32 (d, 6H).

reactant | 2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazole-3-carboxylic acid methyl ester | 6.8 mmol, 2.2 g | COC(=O)C=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl | C14H14Cl2N2O2
reactant | DIBAL-H | 1M, 33.7 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol | 1.6 g, 80% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1CO)C(C)C | C13H14Cl2N2O
